US05258399
A solution of 2-chloro-4-methylaniline (5.00 g) and triethylamine (3.57 g) in dichloromethane (100 ml) was cooled to 0° C. Methanesulphonyl chloride (4.04 g) was added dropwise and the mixture stirred at ambient temperature overnight. The mixture was then washed with 2N aqueous hydrochloric acid solution (50 ml) and the solvent removed by evaporation. The residue was dissolved in ethyl acetate (75 ml) extracted with 2N aqueous sodium hydroxide solution (2×50 ml). The aqueous phase was acidified with 2N aqueous hydrochloric acid solution and extracted with ethyl acetate (2×75 ml). This was subsequently dried (MgSO4) and the solvent evaporated. Thus was obtained N-(2-chloro-4-methylphenyl)methanesulphonamide (2.5 g, 32%). NMR Spectrum 2.33 (3H, s), 2.97 (3H, s), 6.6 (1H, s), 7.10 (1H, d), 7.25 (1H, s), 7.52 (1H, d).

reactant | 2-chloro-4-methylaniline | 5.00 g | ClC1=C(N)C=CC(=C1)C | C7H8ClN
reactant | triethylamine | 3.57 g | C(C)N(CC)CC | C6H15N
reactant | Methanesulphonyl chloride | 4.04 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-(2-chloro-4-methylphenyl)methanesulphonamide | 2.5 g, 32% | ClC1=C(C=CC(=C1)C)NS(=O)(=O)C | C8H10ClNO2S
